* Z:\mnt\design.r\spice\examples\3563.asc
V1 IN 0 3.6
L1 N001 OUT 2.2µ
C1 OUT 0 10µ
Rload OUT 0 2.56
XU1 OUT IN 0 N001 0 IN LTC3563
.tran 2m startup
.lib LTC3563.sub
.backanno
.end
